US08067595B2
Formic acid (9.4 mL, 0.208×1.2 mol) was added to a toluene (250 mL) solution of 3-ethoxypropylamine (25 mL, 0.208 mol) at room temperature, and heated under reflux for 17 hours while removing water formed as a by-product with a Dean-Stark tube. After cooling to room temperature, K2CO3 (14 g, 0.208×0.5 mol) was added and it was stirred for 90 minutes. Insoluble materials were removed by filtration, washed with toluene, and the filtrate was concentrated to dryness. The residue was purified by vacuum distillation with a Vigreux fractionating column (15 cm) (fraction at 0.6 kpa, 114° C. to 115° C. collected), and N-(3-ethoxypropyl)formamide (21.79 g, 0.166 mol, 80%) was obtained as a colorless transparent liquid.

reactant | Formic acid | 1.2 mol, 9.4 mL | C(=O)O | CH2O2
reactant | 3-ethoxypropylamine | 0.208 mol, 25 mL | C(C)OCCCN | C5H13NO
reactant | K2CO3 | 0.5 mol, 14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-ethoxypropyl)formamide | 0.166 mol, 21.79 g, 80% | C(C)OCCCNC=O | C6H13NO2
